US09326987B2
N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2-(methyloxy)benzenesulfonamide
5-{4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-2-(methyloxy)-3-pyridinamine (150 mg, 0.254 mmol) was dissolved in chloroform (3 ml) then 2-(methyloxy)benzenesulfonyl chloride (79 mg, 0.382 mmol) was added. Pyridine (0.082 ml, 1.018 mmol) was added to the reaction mixture and it was stirred at room temperature for 5 h. The compound was dissolved in 1,4-dioxane (2 ml) and 2M sodium hydroxide (2 ml) and stirred at room temperature for 3 h. The reaction mixture was neutralized to pH 7 with 2M HCl, then the solvent was removed under a stream of nitrogen. The solid was dissolved in DMSO then filtered through a filter tube and purified by Mass Directed Automated Preparative HPLC. The solvent was removed under nitrogen to give the title compound as a white solid (60 mg).

reactant | 5-{4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-2-(methyloxy)-3-pyridinamine | 0.254 mmol, 150 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)N)S(=O)(=O)C1=CC=C(C=C1)C | C29H31N7O5S
reactant | 2-(methyloxy)benzenesulfonyl chloride | 0.382 mmol, 79 mg | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | Pyridine | 1.018 mmol, 0.082 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 2M, 2 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-[5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]-2-(methyloxy)benzenesulfonamide | 60 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=CC=C1)OC | C29H31N7O6S
